US08466197B2
H2SO4 (1 mL, 18.76 mmol) was added to a solution of diflunisal (1.50 g, 5.995 mmol) in EtOH (50 mL). The reaction mixture was refluxed for 2 days, allowed to reach r.t., and diluted with CH2Cl2 (200 mL). The organic layer was washed with Na2CO3 (1 M aqueous solution, 200 mL). It was dried over Na2SO4 (anhydrous), filtered and concentrated to furnish 1.30 g of ethyl 2′,4′-difluoro-4-hydroxybiphenyl-3-carboxylate (white solid, yield: 78%).

reactant | H2SO4 | 18.76 mmol, 1 mL | OS(=O)(=O)O | H2O4S
reactant | diflunisal | 5.995 mmol, 1.50 g | C1=CC(=C(C=C1C=2C=CC(=CC2F)F)C(=O)O)O | C13H8F2O3
reactant | EtOH | 50 mL | CCO | C2H6O
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | ethyl 2′,4′-difluoro-4-hydroxybiphenyl-3-carboxylate | 1.30 g, yield: 78% | FC1=C(C=CC(=C1)F)C1=CC(=C(C=C1)O)C(=O)OCC | C15H12F2O3
